US08378104B2
Step E: 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3-benzothiadiazole (Title Compound)
A mixture of 7-bromo-1,2,3-benzothiadiazole (100.0 mg, 0.4650 mmol), bis(pinacolato)diboron (165 mg, 0.930 mmol), (1,1′bis-(diphenylphosphino)-ferrocene)palladium dichloride (17.0 mg, 0.0464 mmol), and potassium acetate (79.6 mg, 0.811 mmol) in 1,4-dioxane (2 mL) was heated to 95° C. for 16 h. The solution was concentrated in vacuo and purified by column chromatography (2 to 5% EtOAc:heptane) to afford 80 mg (65%) of the title compound as light purple solid. 1H NMR (400 MHz, CDCl3): δ 1.41 (s, 12 H), 7.65 (dd, J=8.3, 7.1 Hz, 1 H), 8.12 (dd, J=6.9, 0.9 Hz, 1 H), 8.72 (dd, J=8.3, 1.0 Hz, 1 H).

reactant | 7-bromo-1,2,3-benzothiadiazole | 0.4650 mmol, 100.0 mg | BrC1=CC=CC=2N=NSC21 | C6H3BrN2S
reactant | bis(pinacolato)diboron | 0.930 mmol, 165 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.811 mmol, 79.6 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3-benzothiadiazole | 80 mg, 65% | CC1(OB(OC1(C)C)C1=CC=CC=2N=NSC21)C | C12H15BN2O2S
